US06002008
4-Morpholin-4-yl-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
To a mixture of 1.2 g (3.5 mmol) of 4-[(3-chloro-4-fluorophenyl)amino]-7-methoxy-6-amino-quinoline-3-carbonitrile and 2.44 ml (14 mmol) of Hunig's base in 50 ml of dry THF at 0° C., with stirring, was added a THF solution containing 2.57 g (14 mmol) of 4-bromo crotonyl chloride dropwise. The mixture was stirred for an additional hour at 0° C. 50 ml of saturated sodium chloride solution was added to the reaction mixture, then it was extracted with ethyl acetate. The ethyl acetate solution was dried over sodium sulfate and then was added to a solution of 4.58 ml (52.5 mmol) morpholine in mL of THF at 0° C. dropwise. The solution was stirred an overnight at 0° C. The mixture was poured into diluted sodium bicarbonate solution. The organic layer dried over sodium sulfate. Chromatography gave 0.83 grams off-white solid: mass spectrum (electrospray, m/e): M+H 496.0.

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-7-methoxy-6-amino-quinoline-3-carbonitrile | 3.5 mmol, 1.2 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)N)OC)C#N | C17H12ClFN4O
reactant | Hunig's base | 14 mmol, 2.44 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromo crotonyl chloride | 14 mmol, 2.57 g | BrC/C=C/C(=O)Cl | C4H4BrClO
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
reactant | morpholine | 52.5 mmol, 4.58 ml | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-Morpholin-4-yl-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.83 grams | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1CCOCC1)=O)OC)C#N | C25H23ClFN5O3
